US07572808B2
B. Preparation of 8-(4-chlorophenyl)-7-(2,4-dichlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring, degassed mixture of 7-bromo-8-(4-chlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (20 mg, 0.05 mmol), 2,4-dichlorophenylboronic acid (38 mg, 0.20 mmol), and tetrakis(triphenylphosphine)palladium (3 mg, 0.002 mmol) in dioxane (0.4 mL) at 20° C. was added K2CO3 (30 mg, 0.2 mmol) in water (0.13 mL). The resulting reaction mixture was heated in a microwave reactor at 200° C. for 10 min under argon. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was brought to room temperature and was concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (acetonitrile-water-TFA) to isolate the title compound (7 mg, 0.016 mmol) as a yellow oil. MS: [M+H]+=446.

reactant | 7-bromo-8-(4-chlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 20 mg | BrC1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)C2=CC=C(C=C2)Cl | C16H15BrClN3O
reactant | 2,4-dichlorophenylboronic acid | 0.20 mmol, 38 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 0.2 mmol, 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.13 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.002 mmol, 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(4-chlorophenyl)-7-(2,4-dichlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.016 mmol, 7 mg | ClC1=CC=C(C=C1)C=1C=2N(C=CC1C1=C(C=C(C=C1)Cl)Cl)C(N(N2)CC(C)C)=O | C22H18Cl3N3O
